US05994378
5-Benzyloxy-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxamide (0.122 g) was added to a solution (1 M) of borontribromide in dichloromethane (0.57 ml) under ice-cooling and then the mixture was stirred at room temperature for 1.5 hours. The mixture was concentrated under reduced pressure and the residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxy-1H-indazole-3-carboxamide (0.08 g).

reactant | 5-Benzyloxy-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-1H-indazole-3-carboxamide | 0.122 g | C(C1=CC=CC=C1)OC=1C=C2C(=NN(C2=CC1)CC=1C=CC2=C(C=C(O2)C=2SC=C(N2)C(C)(C)C)C1)C(=O)N | C31H28N4O3S
solvent | dichloromethane | 0.57 ml | ClCCl | CH2Cl2
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxy-1H-indazole-3-carboxamide | 0.08 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2N=C(C1=CC(=CC=C21)O)C(=O)N | C24H22N4O3S
